US06706703B2
Following the procedure of the synthesis of 3,4,5-triethoxy-1-iodobenzene from the oil containing 3,4,5-triethoxyaniline in Reference Example 5,1-iodo-3,5-dimethoxy-4-methylbenzene was obtained as a pale yellow amorphous powder (7.59 g, yield: 87%) from 3,5-dimethoxy-4-methylaniline (J. Chem. Soc., 497-506 (1963)) (5.23 g, 31.3 mmol).

reactant | 3,4,5-triethoxy-1-iodobenzene | C(C)OC=1C=C(C=C(C1OCC)OCC)I | C12H17IO3
reactant | 3,4,5-triethoxyaniline | C(C)OC=1C=C(N)C=C(C1OCC)OCC | C12H19NO3
product | 3,5-dimethoxy-4-methylaniline | 31.3 mmol, 5.23 g | COC=1C=C(N)C=C(C1C)OC | C9H13NO2
